US04342692
J. 1-(3,4-Dimethoxyphenyl)-5,5-ethylenedioxy-7-(4-methoxyphenyl)-2-nitroheptane
Into a 1 l. r.b. flask equipped with a Dean-Stark trap was placed 22 g. (0.055 mole) of 1-(3,4-dimethoxyphenyl)-7-(4-methoxyphenyl)-2-nitro-5-heptanone, 2 g. of p-toluenesulfonic acid, 25 ml. of ethylene glycol, and 500 ml. of benzene, the mixture was refluxed until no more water was separated, and then cooled to room temperature. The dark solution was poured into cold dil. NaHCO3 solution and extracted with ethyl acetate. The organic layer was backwashed with water and dried over anhydrous MgSO4. Upon removing solvent by distillation a gray solid was obtained from trituration with ether. Recrystallization from 80% ethanol yielded 25 g. of product as a white solid; m.p. 98°-100° C.

reactant | 1-(3,4-dimethoxyphenyl)-7-(4-methoxyphenyl)-2-nitro-5-heptanone | 0.055 mole | COC=1C=C(C=CC1OC)CC(CCC(CCC1=CC=C(C=C1)OC)=O)[N+](=O)[O-] | C22H27NO6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1-(3,4-Dimethoxyphenyl)-5,5-ethylenedioxy-7-(4-methoxyphenyl)-2-nitroheptane | COC=1C=C(C=CC1OC)CC(CCC1(CCC2=CC=C(C=C2)OC)OCCO1)[N+](=O)[O-] | C24H31NO7
